US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate (0.75 g, 2.0 mmol) and acetic anhydride (0.19 mL, 2.0 mmol) in acetonitrile (20 mL), was added triethylamine (0.56 mL, 4.0 mmol) at room temperature under nitrogen. After 1 h, the solids were isolated by filtration. The crude product was triturated in water (20 mL) for 1.0 h, then isolated by filtration and dried in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-acetamide as a white solid (0.47 g, 75% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 to 90/10 CH3CN/0.1% H3PO4 gradient over 15 mins, 3.28 min (96.26%); mp: 183-185° C.; 1H NMR (DMSO-d6) δ 1.89 (s, 3H, CH3), 1.93-2.07 (m, 1H, CHH), 2.26-2.48 (m, 1H, CHH), 2.54-2.70 (m, 1H, CHH), 2.77-3.04 (m, 1H, CHH), 4.22-4.51 (m, 4H, CH2, CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, CH), 7.39 (d, J=7.9 Hz, 1H, Ar), 7.47 (s, 1H, Ar), 7.68 (d, J=7.9 Hz, 1H, Ar), 8.45 (t, J=5.8 Hz, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.49, 22.56, 31.21, 42.14, 47.10, 51.59, 122.08, 122.90, 127.05, 130.32, 142.36, 143.95, 167.93, 169.25, 171.00, 172.86; LCMS: MH=316; Anal Calcd for C16H17N3O4: C, 60.94; H, 5.43; N, 13.33. Found: C, 60.61; H, 5.31; N, 13.30.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methane sulfonate | 2.0 mmol, 0.75 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | acetic anhydride | 2.0 mmol, 0.19 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 4.0 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-acetamide | 0.47 g, 75% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C)=O)=O)=O | C16H17N3O4
